US04455422
2.0 Grams of 6-[1-oxo-3-(4-phenylpiperazinyl)-propyl]-3,4-dihydrocarbostyril and 0.6 g of 5%-palladium carbon were dispersed in 80 ml of ethanol and stirred at a room temperature under 2 atmospheric pressure of hydrogen gas for 5 hours. The reaction mixture was filtered for removing the palladium carbon and the mother liquor was concentrated under a reduced pressure and the residue thus obtained was recrystallized from isopropanol to obtain 1.4 g of 6-[1-hydroxy-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril in colorless needle-like crystals.

reactant | 6-[1-oxo-3-(4-phenylpiperazinyl)-propyl]-3,4-dihydrocarbostyril | O=C(CCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C22H25N3O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 6-[1-hydroxy-3-(4-phenyl-1-piperazinyl)propyl]-3,4-dihydrocarbostyril | 1.4 g | OC(CCN1CCN(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C22H27N3O2
